US08278482B2
Methyl 4-methyl-4-nitropentanoate
According to the method of R. B. Moffett, Organic Syntheses, Coll. Vol. 4, p. 652 (1963), a 250-mL three-necked flask was fitted with a dropping funnel, and a thermometer placed so that the bulb was near the bottom of the flask. A solution of 2-nitropropane (45.5 mL, 0.5 mol) in dioxane (25 mL) and a 40% aqueous solution of benzyltrimethylammonium hydroxide (Triton B, 5 mL, 0.013 mmol) were added to the flask. The flask was heated to 70° C. in an oil bath and methyl acrylate (45 mL, 0.5 mol) was added via a dropping funnel over 15 minutes. The temperature rose to about 100° C. during the addition then dropped to ˜85° C. The mixture was then heated at 100° C. for 4 h. The reaction mixture was cooled to room temperature and acidified with 1 N hydrochloric acid (10 mL). Water (200 mL) and diethyl ether (400 mL) were added to the reaction flask. The mixture was poured into a separatory funnel and organic layer was washed with water (2×200 mL), brine (200 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a yellow liquid. The product was distilled through a short path distillation apparatus to give a pale yellow liquid (62.3 g, 71.1%). 1H NMR (CDCl3, 400 MHz): δ 1.60 (s, 6H), 2.22-2.38 (m, 4H), 3.70 (s, 3H).

reactant | 2-nitropropane | 0.5 mol, 45.5 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | methyl acrylate | 0.5 mol, 45 mL | C(C=C)(=O)OC | C4H6O2
reactant | hydrochloric acid | 1 N, 10 mL | Cl | ClH
reactant | Water | 200 mL | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | benzyltrimethylammonium hydroxide | 0.013 mmol, 5 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | Methyl 4-methyl-4-nitropentanoate | 62.3 g, 71.1% | CC(CCC(=O)OC)(C)[N+](=O)[O-] | C7H13NO4
